Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vomiting, abdominal pain.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms ___ is a ___ year old woman with a PMH notable for R upper 
ureteral stone s/p laser lithotripsy on ___ who presents 
from urgent care with complaints of ongoing abdominal pain and 
vomiting. 

She presented in ___ this year to the emergency room with 
acute right flank pain and was found to have a 5 mm obstructing 
right mid ureteral stone. She was observed overnight in the 
emergency department and in the following morning due to poor 
pain control, the decision was made to place a right ureteral 
stent and to return at the future date for definitive stone 
procedure. The stent was placed ___ and she was discharged 
home. In the interim, she has tolerated the stent very poorly 
with severe stent-associated pain, which has responded somewhat 
to tamsulosin and oxybutynin. She then had the stent removed and 
laser lithotripsy on ___. Notably, culture of the stent grew 
Enterococcus, but this was felt to be non-pathologic by her 
urologist and was not treated.

This morning, she experienced diarrhea, LLQ pain and then 
vomiting. She thought she had a left sided stone, and presented 
to her urologist, who were concerned for a viral 
gastroenteritis, and referred her to urgent care. At urgent 
care, she was afebrile with BP 130/70, HR 70, RR 16, O2 Sat 98% 
on room air. Labwork showed WBC 15, U/A with large blood and 
bacteria but negative ___, creatinine 0.8 (at baseline). 
Urine culture was obtained. CT abdomen/pelvis was obtained and 
showed new mild left hydronephrosis, without obvious obstructing 
calculus. She was given IV ceftriaxone, 4 mg morphine and IV 
fluid. 

On the floor, she states she vomited a total of approximately 5 
times today, and had approximately 8 episodes of diarrhea. She 
was convinced she had a left sided kidney stone because her 
symptoms were almost identical. She states she used to get 
frequent UTIs, but has not had one in years. 
 
Past Medical History:
Anxiety
Nephrolithiasis 
Eczema
Hemorrhoids
Irritable bowel syndrome
 
Social History:
___
Family History:
Brother- ___ cancer 
Father- ___ cancer; ___ stomach cancer  
Mother-  ___ Thyroid Disorder;
rheumatoid arthritis
Maternal Grandmother- ___ cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
Vitals: 97.4 94/58 69 18 98 ra  
General: Alert, oriented, pleasant and in no acute distress  
HEENT: Anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: surgical scars on abd, soft, non-tender, non-distended,
bowel sounds present, no rebound tenderness or guarding, no
organomegaly, no CVA/flank tenderness 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: No rashes/lesions
Neuro: grossly non-focal

DISCHARGE PHYSICAL EXAM
=======================
As above
 
Pertinent Results:
ADMISSION LABS
===============
___ 11:31AM BLOOD WBC-15.1* RBC-4.41 Hgb-13.9 Hct-39.4 
MCV-89 MCH-31.5 MCHC-35.3 RDW-12.7 RDWSD-41.6 Plt ___
___ 11:31AM BLOOD Neuts-90.2* Lymphs-5.3* Monos-3.6* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-13.66* AbsLymp-0.80* 
AbsMono-0.54 AbsEos-0.01* AbsBaso-0.05
___ 11:31AM BLOOD Glucose-121* UreaN-13 Creat-0.8 Na-140 
K-4.1 Cl-103 HCO3-24 AnGap-17
___ 11:32AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:32AM URINE Blood-LG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-0.2 pH-5.5 Leuks-NEG
___ 11:32AM URINE ___ Bacteri-MANY 
Yeast-NONE ___ 11:32AM URINE UCG-NEG

PERTINENT LABS
===============
N/A

DISCHARGE LABS
===============
___ 06:45AM BLOOD WBC-6.0# RBC-3.82* Hgb-11.9 Hct-35.8 
MCV-94 MCH-31.2 MCHC-33.2 RDW-13.2 RDWSD-44.9 Plt ___
___ 06:45AM BLOOD ___ PTT-36.0 ___
___ 06:45AM BLOOD Glucose-84 UreaN-9 Creat-0.7 Na-142 K-3.9 
Cl-109* HCO3-26 AnGap-11
___ 06:45AM BLOOD ALT-14 AST-17 AlkPhos-44 TotBili-0.4
___ 06:45AM BLOOD Calcium-8.3* Phos-3.4 Mg-1.9

MICROBIOLOGY
===============
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING
===============
CT ABD/PELVIS W/O CONTRAST ___:

New mild left hydronephrosis, without obvious obstructing 
calculus.  There is
delayed left renal excretion of contrast.  Mild urothelial 
enhancement could
suggest mild inflammatory or infectious change.  The left distal 
ureter is laterally displaced by an enlarged fibroid uterus.
 
Mild urothelial thickening of right mid ureter, may reflect mild 
infectious or
inflammatory change, or reactive from recent removal of ureteral 
stent.
 
No evidence of bowel inflammation or obstruction.  Portions of 
the left colon,
sigmoid and rectum are decompressed, limiting evaluation.
 
Apparent nodularity of left adrenal gland, could potentially 
reflect confluence of passing structures rather than true 
nodule.  Attention to this suggested on follow-up scans.
 
Bilateral renal hypodensities, not fully characterized, but 
stable.  Suggest
further characterization with MRI abdomen with gadolinium.
 
Brief Hospital Course:
ACUTE ISSUES: 
==========================
#Presumed Acute Pyelonephritis:
Hydronephrosis:
Symptoms of abdominal pain, nausea in setting of pyuria and 
bacteruria are primarily concerning for pyelonephritis. Her 
history kidney stones as well as hydronephrosis and blood on UA 
is concerning for obstructing stone, however no stone was seen 
on CT. She may have already passed a stone. Upon admission, she 
was treated with Ampicillin for coverage of Enterococcus, which 
had previously grown on culture of her ureteral stent. Urine 
culture was still pending at time of discharge. Antibiotics were 
converted to Augmentin upon discharge, with plans to complete a 
7 ___ course. She was also given Tramadol for pain. Her pain and 
nausea/vomiting were well controlled prior to discharge. Her 
urologist, Dr. ___, was contacted and did not recommend 
any changes in management. She will follow up with him as an 
outpatient. 

#Possible Gastroenteritis. Possibly caused by acute illness as 
above, but with history of recent antibiotics as well as 
leukocytosis, C diff a possibility. She did not have any further 
diarrhea after admission, so C diff was not tested.
 
CHRONIC ISSUES: 
==========================
#Anxiety. Pt states she currently takes Lorazepam 0.5mg BID PRN 
anxiety, but is process of being weaned from this and started on 
another anxiolytic, which she does not know the name of. She was 
continued on Lorazepam during admission. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Pyelonephritis 
Duration: 6 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a ___ Disp #*11 Tablet Refills:*0 
2.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO BID:PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Acute Complicated Pyelonephritis

SECONDARY
=========
Anxiety
Hx of Nephrolithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ after 
you were found to have abdominal pain and a concerning CT 
finding at your urgent care. We think you have an infection of 
your urinary tract that went up to your kidney called 
"pyelonephritis." We started you on IV antibiotics and gave you 
IV fluids and you felt much better. You will follow up with Dr 
___ your PCP.

It was a pleasure taking care of you!

Your ___ Team
 
Followup Instructions:
___